US07648985B2
4-(3-Bromo-propoxy)-1,2-difluoro-benzene
A mixture of 3,4-difluorophenol (2.60 g, 20.0 mmol), 1,3-dibromopropane (20.3 mL, 2001 mmol), and potassium carbonate (2.76 g, 20.0 mmol) in acetonitril (30 mL) was heated at 75° C. overnight. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The crude product was purified by chromatography on silica gel. (Horizon™, flash system from Biotage™. Column: Flash 40+M, 40×150 mm. Eluent: 3% ethyl acetate in heptane. Concentration in vacuo afforded, 4.35 g of the title compound as a colourless oil with a purity of ca. 90%.

reactant | 3,4-difluorophenol | 20.0 mmol, 2.60 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | 1,3-dibromopropane | 2001 mmol, 20.3 mL | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 20.0 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitril | 30 mL | C(C)#N | C2H3N
product | 4-(3-Bromo-propoxy)-1,2-difluoro-benzene | 4.35 g | BrCCCOC1=CC(=C(C=C1)F)F | C9H9BrF2O
